Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
E-Mycin / Codeine / Penicillins / IV Dye, Iodine Containing 
Contrast Media
 
Attending: ___.
 
Chief Complaint:
Fever.
 
Major Surgical or Invasive Procedure:
TEE (transesophageal echocardiogram) ___.
___ IV line placement ___.
Port removal ___.
 
History of Present Illness:
___ with recurrent breast cancer on chemo with carboplatin, 
taxotere, Herceptin (last chemo ___, Neulasta ___ 
transferred to the FICU from the radiology suite after a 
questionable anaphylactic reaction (dyspnea, hypoxia, 
tachycardia, and flushing) to IV contrast for CTA vs worsening 
volume overload.

Briefly, she presented to the ED with fever to 104 and rigors at 
home, with no obvious source of infection except for HSV-2 
vaginal rash and chest rash. She had been seen by dermatology 
the day prior who recommended Valtrex 1g po BID x 5 days; it is 
unclear whether this had been started. She was also being 
evaluated for a rash on her chest thought to be a 
hypersensitivity rash related to chemotherapy; she was supposed 
to start a course of oral prednisone but had not yet started. Pt 
denies dyspnea, cough and chest pain (other than at the skin at 
the site of rash). Patient denied any urinary symptoms except 
some burning related to vaginal herpes rash; also complained of 
abdominal pain and loose stools over the last few days. She did 
endorse nausea at the time but denied emesis, and had not had 
nausea at home.

___ the ED, vital signs were T 100.9 HR 133 BP 89/53 RR 18 O2sat 
93% RA. Patient received 2L IVF fluid, blood/urine cultures were 
sent and she was given a dose of cefepime and vancomycin. She 
was admitted to the ___ service for further 
management. On the floor, she was given 20mg IV Lasix for 
possible fluid overload (she was recently started on a thiazide 
over the last few weeks due to some edema). She was persistently 
tachycardic to the low 100s and somewhat short of breath, so was 
sent for CTA to rule out PE.  Apparently after receiving IV 
contrast, she became dyspneic and tachycardic to the 170s. She 
was placed on a non-rebreather and a Code Blue was called for 
anaphylaxis. During the code, she got an EpiPen, hydrocortisone 
100mg IV, Benadryl 25mg IV x2, and famotidine IV, and was 
transferred to ___ for further management.

On arrival to the MICU, patient's VS were T 102.9, HR 169, 
113/75, RR 34, 92% 2L NC. ABG on arrival to the ___ (on 2L NC) 
was 7.39/29/70/18, lactate 4.7 (increased from 2.4 earlier ___ 
the day). Patient appeared less tachypneic and stated that her 
dyspnea was ___ the FICU pt continued broad spectrum 
antibiotics which were narrowed to vancomycin after blood 
cultures returned back positive for MSSA. She was gently 
diuresed. She also developed a.fib adn was started on short 
acting diltiazam. She was followed by both dermatology and the 
ID service. 
On arrival to the floor pt reports that she is feeling better 
overall.Breathing has improved significantly as well as the 
rash. She has no chest pain or other pain.

Review of systems:  
(+) Per HPI, rigors, fevers, dyspnea. +weight gain.
(-) Denies night sweats, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denies 
cough or wheezing. Denies chest pain, chest pressure, 
palpitations. Denies constipation, dark or bloody stools.
 
Past Medical History:
- High grade DCIS (left breast) diagnosed ___, s/p partial 
mastectomy, XRT, Arimidex x ___ years; recurrent left breast 
carcinoma ___, now s/p 3 cycles neoadjuvant chemo with 
carboplatin, taxotere, Herceptin q3weeks (last chemo ___, 
Neulasta ___ and plan for mastectomy; BRCA1 and BRCA2 normal
- Hypersensitivity rash to chemotherapy ( likely taxotere)
- HSV-2 vaginal rash
- Hypertension
- H/o postpartum cardiomyopathy (echo from ___ LVEF >55%)
- Fatty liver (followed by Dr. ___ at ___ 
___ Liver biopsy showed grade I inflammation and stage II 
fibrosis)
- GERD
- Heterozygous for hemochromatosis
 
Social History:
___
Family History:
H/o BRCA ___ family (patient is BRCA negative) with many cancers 
including pancreatic and breast.
 
Physical Exam:
ADMISSION EXAM:
VS: T 98 BP 107/76 P ___ RR 18 O2 sat 97 4lits
GEN: AAOx3, able to complete full sentences without 
difficulties, no asd.
SKIN: Anterior chest- numerous erythematous papules some w/ 
superficial erosions and crusting. Back- are many bright red 
macules and patches, scattered over upper back and bilateral 
dorsal forearms and hands. 
HEENT: op clear, no exudates, erythema or ulcerations
CHEST: Bibasilar crackles.
CV: rrr no m/r/g
ABD: nabs, soft, nt/nd
EXT: wwp biltaral  nonpitting edema
NEURO: alert and oriented x3, CN ___ grossly intact,strength 
___ overall, non focal exam
PSYCH: appropriate and calm
 
Pertinent Results:
ADMISSION LABS
___ 08:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-SM 
___ 08:30AM URINE  RBC-0 WBC-24* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:57AM   LACTATE-2.4*
___ 06:43AM   GLUCOSE-157* UREA N-11 CREAT-1.0 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-22 ANION GAP-14
___ 06:43AM   WBC-14.3* RBC-3.49* HGB-10.7* HCT-30.9* 
MCV-89 MCH-30.6 MCHC-34.5 RDW-17.1*
___ 11:54AM   ALT(SGPT)-103* AST(SGOT)-50* ALK PHOS-106* 
TOT BILI-0.9
___ 11:54AM   WBC-10.8 RBC-3.61* HGB-11.2* HCT-32.3* MCV-90 
MCH-31.1 MCHC-34.8 RDW-16.8*
.
Direct Antigen Test for Herpes Simplex Virus Types 1 & 2 (Final
      ___: 
      Reported to and read back by ___ ___ 1120AM. 
      POSITIVE FOR HERPES SIMPLEX TYPE 2 (HSV2). 
         Viral antigen identified by immunofluorescence.
DIRECT ANTIGEN TEST FOR VARICELLA-ZOSTER VIRUS (Final ___: 

      Negative for Varicella zoster by immunofluorescence
.
MICRO
___ 2:52 pm SWAB      Source: skin - ulcer. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 
      Refer to direct HSV and/or direct VZV antigen test results 
for
      further information. 

___ 6:43 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ @ ___, 
___ . 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CLUSTERS. 

___ 8:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 3:00 pm BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 

IMAGING
___ CXR: FINDINGS:  ___ comparison with the study of earlier 
___ this date, the patient has taken a somewhat lower 
inspiration.  Port-A-Cath remains ___ place.  Elevation of the 
left hemidiaphragm with mild atelectatic changes at the bases.  
No evidence of vascular congestion. Unusual metallic 
opacification projected over the area of the left cardiophrenic 
angle, of uncertain etiology.
.
___ CTA CHEST: IMPRESSION:
1.  Limited evaluation of pulmonary embolism.  No large main or 
segmental pulmonary embolism.
2.  Small right basilar atelectasis.
3.  No explanation for shortness of breath and acute hypoxemia.
.
___ CXR: There are lower lung volumes.  Small bilateral 
pleural effusions have increased, they are larger on the right 
side.  There is bibasilar atelectases, larger on the right side, 
worsened from before.  Right Port-A-Cath tip is ___ the right 
atrium.
.
___ BILATERAL ___ DOPPLER U/S:
1. No evidence of deep vein thrombosis.  Calf veins not well 
visualized.
2.  Small amount of fluid within the left popliteal region.
.
___ CXR: CONCLUSION: Except for slightly improved bibasilar 
atelectasis the rest of the exam is unchanged.
.
___ TTE: IMPRESSION: Suboptimal image quality. No obvious 
evidence of endocarditis ___ a technically limited study. 
Preserved global left ventricular systolic function. Right 
ventricular dilation with borderline normal function. Compared 
with the prior study (images reviewed) of ___, the right 
ventricle now appears dilated with borderline normal function.
.
___ TEE: Overall left ventricular systolic function is normal 
(LVEF>55%). IMPRESSION: Mild mitral regurgitation with normal 
valve morphology. No echocardiographic evidence of endocarditis.
.
DISCHARGE LABS:
___ 05:09AM BLOOD WBC-6.8 RBC-2.59* Hgb-8.5* Hct-24.3* 
MCV-94 MCH-32.9* MCHC-35.0 RDW-19.8* Plt ___
___ 05:09AM BLOOD Glucose-88 UreaN-7 Creat-0.6 Na-139 K-3.8 
Cl-104 HCO3-29 AnGap-10
___ 05:09AM BLOOD Calcium-8.3* Phos-3.6 Mg-1.6
___ 07:15AM BLOOD ALT-58* AST-27 LD(LDH)-246 AlkPhos-83 
TotBili-0.4
___ 05:09AM BLOOD ALT-18 AST-34 AlkPhos-75 TotBili-0.5
___ 05:31AM BLOOD proBNP-1459*
___ 07:11AM BLOOD %HbA1c-6.3* eAG-134*
___ 05:31AM BLOOD TSH-0.27
___ 12:03PM BLOOD Lactate-1.3
___ 02:32AM BLOOD freeCa-1.___ woman with recurrent Her2+ breast cancer receiving 
neoadjuvant chemotherapy (last treatment ___, Neulasta 
___ admitted from the ED for fever.  She developed 
tachycardia and dyspnea/hypoxia during a CTA chest to rule out 
PE, so was transferred to the ICU from the radiology suite.  ___ 
the ICU, she had fever to 104, rigors, and hypotension, then 
developed worsening dyspnea/hypoxia after fluid rescusitation ___ 
the ED and was found to have MSSA sepsis.
.
# Hypoxia/dyspnea: Transferred to ICU for dyspnea and hypoxemia 
to mid-80s during CTA chest, initially thought to be anaphylaxis 
from IV contrast.  CTA was negative for PE.  New O2 requirement 
of 4L since admission with evidence of small b/l pleural 
effusions and volume overload on exam.  She had received 10L IV 
fluids ___ first 24hr of admission to ICU for severe sepsis.  BNP 
1459.  Echo showing new RV dilatation, but normal EF.  History 
of post-partum cardiomyopathy and has been getting trastuzumab.  
Hypoxia/dyspnea improving with furosemide.  Cardiology 
consulted; they felt the RV dilation was minimal and trastuzumab 
could be safely continued.  Diuresed with furosemide for acute 
diastolic CHF (apical ballooning syndrome/Takotsubo?).  Weight 
returned back to baseline.  Stopped furosemide at discharge.  
Daily weights and strict Ins/Outs.  Changed diltiazem to 
metoprolol for CHF management.  Titrated up metoprolol from 25mg 
BID to TID.  Continued aspirin as long as PLTs remain >50.  
Ipratroprium PRN.  Restarted ___ at ___ dose as outpatient given 
new metoprolol.  Losartan was held since ___ day of admission 
due to hypotension.
- SHE WILL NEED A REPEAT ECHO ___ ONE MONTH.
.
# Bacteremia: MSSA ___ blood, source pustular rash, which also 
grew MSSA.  Vancomycin started ___, then changed to 
cefazolin due to sensitivities and PCN allergy.  TTE negative 
for endocarditis, but did show new RV dilatation (see above).  
TEE negative for endocarditis.  Most recent cultures negative.  
Port was accessed and used for antibiotics to decontaminate 
port.  However, ID advised port removal.  Port was removed 
___.  Repeat U/A still showing WBCs, but now symptoms, so no 
change ___ antibiotics.
- F/U SURVEILLANCE CULTURES AND PORT TIP CULTURE.
- Plan for surveillance cultures to be drawn through the PICC 
after antibiotics are completed.
- F/U URINE CULTURE.
.
# Atrial fibrillation: Started ___.  IV diltiazem given ___ 
the ICU.  Outpatient PO diltiazem 240mg daily was changed to 
60mg q6h with good rate control.  CHADS2 score 1 indicates ASA 
vs. anticoagulation.  TSH normal.  Received a dose of oral 
metoprolol on evening of transfer to floor.  Albuterol stopped.  
Since then remains ___ sinus.  Changed diltiazem to metoprolol 
for CHF management (see above).  Monitored on telemetry.
.
# Rash: Worsening after each cycle of chemotherapy.  Skin biopsy 
was consistent with a chemotherapy reaction.  Dermatology 
recommended a 7-day course of steroids: Started 
methylprednisolone ___, changed to prednisone ___.  Wound 
culture grew MSSA.  Mupirocin cream.  Dermatology prefered 
ointment to cream, but this was non-formulary and unavailable.  
She was given a prescription for the ointment as an outpatient.  
Fexofenadine for pruritis.
.
# Genital herpes: She had DFA of vaginal lesions that revealed 
herpes simplex virus 2.  She received a 7-day course of 
acyclovir IV ___ to ___.  Changed to suppressive doses 
until chemotherapy finishes.
.
# Breast cancer: Last received chemotherapy ___ with 
carboplatin, docetaxel, and trastuzumab.  Received Neulasta 
injection the following day.  Plan is for neoadjuvant chemo and 
then ultimately mastectomy for recurrent left breast cancer.  
Outpatient oncologist is Dr. ___.  Given 
trastuzumab 6mg/kg ___.  Next dose ___ q3wks.
.
# Anemia/thrombocytopenia: Chemo-induced.  PLTs improving.  HCT 
stable.  HCT slowly decreasing.  Ms. ___ did not want a 
transfusion as she has never had one, but she did realize that 
she may need one soon.
.
# Leukocytosis: Due to infection and peg-GCSF.  Resolved.
.
# Red eyes: Blepharitis/conjunctivitis L>R associated with 
chemo-induced rash.  Ophthalmology consulted.  Artifical tear 
drops.
.
# LFT abnormalities: History of fatty liver, diagnosed by liver 
biopsy ___.  Possibly worse from chemo.  Resolved.
.
# Hyperglycemia: Elevated blood sugars with recent steroids.  
HbA1c 6.3.  Started insulin sliding scale.  Resolved off 
steroids.
.
# GERD: Continued outpatient pantoprazole.  D/C'd H2 blocker 
(started for presumed anaphylaxis).
.
# FEN: Regular diet.  Repleted hypophosphatemia, hypokalemia, 
and hypomagnesemia.
.
# GI PPx: Started bowel regimen for constipation.
.
# DVT PPx: Heparin SC.
.
# Precautions: None.
.
# Lines: Peripheral IV.  Port removed ___.  PICC placed 
___.
.
# CODE: FULL.
 
Medications on Admission:
1. Dexamethasone 4 mg PO Q12H 
3 days prior to start of chemotherapy 
2. Diltiazem Extended-Release 240 mg PO DAILY 
3. Lorazepam 0.5 mg PO Q6H:PRN nausea/anxiety 
4. Losartan Potassium 100 mg PO DAILY 
5. Ondansetron 8 mg PO Q8H:PRN nausea 
6. Pantoprazole 40 mg PO Q24H 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Aspirin EC 81 mg PO DAILY 
9. vitamin E *NF*    Topical daily
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Ondansetron 8 mg PO Q8H:PRN nausea 
3. Pantoprazole 40 mg PO Q24H 
4. Prochlorperazine 10 mg PO Q6H:PRN nausea 
5. Acetaminophen 325-650 mg PO Q6H:PRN pain 
6. Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth q8HR Disp #*90 Tablet 
Refills:*1
7. Artificial Tear Ointment 1 Appl LEFT EYE PRN red, itchy eye 
RX *artificial tear ointment   Apply OINTMENT LEFT EYE PRN Disp 
#*2 Tube Refills:*1
8. Artificial Tears 1 DROP BOTH EYES TID 
RX *dextran 70-hypromellose [Artificial Tears]   Apply DROPS 
BOTH EYES three times a day Disp #*2 Tube Refills:*1
9. Docusate Sodium 100 mg PO BID 
10. Senna 1 TAB PO BID:PRN Constipation 
11. Lorazepam 0.5 mg PO Q6H:PRN nausea/anxiety 
12. Vitamin E *NF* 0   TOPICAL DAILY 
13. Losartan Potassium 50 mg PO DAILY 
RX *losartan 50 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*1
14. Vitamin D 400 UNIT PO DAILY 
15. Metoprolol Tartrate 25 mg PO TID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*2
16. CefazoLIN 2 g IV Q8H Duration: 10 Days 
Last day ___. 
RX *cefazolin ___ dextrose (iso-os) 2 gram/50 mL 2g IV q8HR Disp 
#*60 Gram Refills:*0
17. Mupirocin Nasal Ointment 2% 1 Appl NU QID 
RX *mupirocin calcium [Bactroban Nasal] 2 % Apply OINTMENT 
TOPICALLY four times a day Disp #*2 Tube Refills:*1
 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
1. Fever.
2. Staphylococcus aureus sepsis (severe blood infection).
3. Drug rash infected with Staph aureus bacteria.
4. Shortness of breath and hypoxia (low oxygen levels).
5. Hypotension (low blood pressure).
6. Congestive heart failure.
7. Breast cancer.
8. Genital herpes.
9. Anemia (low red blood cell count).
10. Abnormal liver function tests.
11. Port pocket infection.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
You were admitted to the hospital for for fever.  You developed 
shortness of breath, low oxygen levels, and a fast heart rate.  
During a CT scan, your vital signs and symptoms worsened.  So 
you were transferred to the Intensive Care Unit (ICU) and 
started on antibiotics for sepsis, a severe infection of the 
blood.  Blood and skin cultures grew Staphylococcus aureus, a 
bacteria known to stick to different parts of the body.  An echo 
of the heart on the skin surface and one internally (TEE) were 
both negative for infections of the heart valves, but did show a 
mild dilation of the right ventricle heart chamber.  Cardiology 
was consulted and they felt that the right ventricle dilation 
was very mild and required no specific therapy.  They did 
recommend changing your blood pressure medicine to metoprolol 
and repeating an echo ___ one month.  While you were ___ the ICU, 
your heart rate became very fast and irregular (atrial 
fibrillation).  This resolved with medication.  Your breathing 
and oxygen levels improved with furosemide (Lasix), a diuretic.  
You should weigh yourself daily to ensure an even fluid balance 
and call your doctors if your ___ increases by more than 5 
lbs or if your ankles become more swollen.  You will need to 
complete a 3 week course of IV antibiotics for the sepsis.  
Although the source of the infection was likely the skin rash, 
your port was removed ___ case the bacteria seeded it and when it 
was removed, it looked like infection may have been present ___ 
the area of the port.  That is why a drain was left ___ place.  
You will need the drain managed by home nurses and the Surgery 
team as an outpatient.  You were also seen by Dermatology, who 
recommended continuing mupiricin ointment for the rash.  Prior 
to going home, you were given trastuzumab (Herceptin) 
chemotherapy for breast cancer.
.
WEIGH YOURSELF DAILY AND CALL A PHYSICIAN FOR WEIGHT GAIN >5 
LBS.
.
YOUR DOCTORS NEED TO ARRANGE A REPEAT ECHO ___ ONE MONTH.  PLEASE 
ENSURE YOU HAVE THIS DONE.
 
Followup Instructions:
___